US04444868
In 61.34 g of acetic anhydride, 34.40 g of 2-methylquinoline and 36.57 g of vanilin were allowed to react with each other under reflux for 16 hours, and 50 cm3 of acetic acid was expelled by distillation. The residue and 250 cm3 of 3 N hydrochloric acid added thereto were heated for one hour. The heated mixture was cooled to deposit crystals, which were separated by filtration. The crystals were suspended in aqueous ammonia and stirred for one hour to expel hydrogen chloride from the crystals. The crystals thus freed from hydrogen chloride were again separated by filtration and collected. They were recrystallized via 2-ethoxyethanol to afford 2-[2-(4-hydroxy-3-methoxyphenyl)-ethenyl]-quinoline in a yield of 63%.

reactant | 2-methylquinoline | 34.40 g | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | vanilin | 36.57 g | COC1=C(C=CC(=C1)C=O)O | C8H8O3
solvent | acetic anhydride | 61.34 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[2-(4-hydroxy-3-methoxyphenyl)-ethenyl]-quinoline | yield of 63% | OC1=C(C=C(C=C1)C=CC1=NC2=CC=CC=C2C=C1)OC | C18H15NO2
